2106-05-21 07:32:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
 ULTRASOUND - At [**2106-5-20**] 11:00 AM
   renal with doppler studies
   [**5-20**]
   - renal: try diurel (we did metalozone instead per dr. [**First Name (STitle) **]),
   uptitrate lasix gtt to 20, 1u prbc for intravascular volume, will eval
   for possible dialysis/ultrafiltration tomorrow but would not initiate
   today. also, they felt that she was reluctant to do dialysis.
   - updated sister on status
   - became hypotensive to 60s systolic (assymptomatic) so decreased
   milrenone and slightly uptitrated epi and pressures returned to 100s
   - will need picc in am
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 73 (68 - 112) bpm
   BP: 110/45(62) {68/18(42) - 142/122(127)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,182 mL
                                                                    175 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,232 mL
                                                                    175 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    409 mL
                                                                    275 mL
   Urine:
                                                                    409 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,773 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: Mildly dyspneic, Alert and oriented x3. Mood, affect
   appropriate.
   NECK: Supple with JVP to mandible at 30 degrees.
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: Some kyphosis. Resp were slightly labored, no accessory muscle
   use. Very poor air entry, with no breath sounds at bases. Wheezes  and
   ronchi above.
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Mildly tender particularly RUQ.
   EXTREMITIES: Very severe lower extremity edema. Cool extremities.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Labs / Radiology
   328 K/uL
   8.8 g/dL
   101 mg/dL
   2.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   39 mg/dL
   103 mEq/L
   136 mEq/L
   26.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2106-5-20**]  03:22 AM
                             [**2106-5-20**]  03:47 PM
                             [**2106-5-21**]  03:11 AM
   WBC
   10.6
   8.5
   Hct
   23.6
   25.8
   26.4
   Plt
   370
   328
   Cr
   2.0
   2.2
   2.2
   Glucose
   157
   116
   101
   Other labs: PT / PTT / INR:20.9/28.4/1.9, Albumin:3.0 g/dL, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: RENAL U/S [**2106-5-20**]:
   1. No hydronephrosis.
   2. Arterial and venous flow identified within the hilum of each kidney,
   but
   no further characterization can be made as this is a very limited
   Doppler
   examination.
   Assessment and Plan
 FUNGAL INFECTION, OTHER
   Perianal skin
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Assessment and Plan
   This 81-year-old woman was likely 'cold' and 'wet' from a heart failure
   perspective, with severe volume overload and poor forward flow,
   resulting in hypoperfusion, liver shock, renal failure, possible
   ischemic colitis and now very decompensated heart failure with about 10
   kg of additional volume, poorly responsive to Lasix and transferred to
   the CCU for more agressive diuresis.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of 30%.</i>
   Decompensated at present, worsened over the course of admission so far.
   Now non-responsive to Lasix and transferred for vasodilator, milrinone,
   Lasix and pressor treatment to attempt diuresis. Again, nonresponsive
   to inotropes, milrinone and Correction of volume overload will likely
   improve systolic function and MR.
   - Would recommend restarting Lasix at 12 mg/hr gtt and uptitrating once
   PICC line is placed
   - Would recommend STARTING Dopamine at 1-3 mcg/kg/min (renal dosing)
   - Would recommend HOLDING Milrinone
   - Wean off phenylephrine now that Dopamine is on board
   - Renal recs re CVVH although pt has been hesitant re this
   - Recall palliative care to help readdress goals of care (pt has been
   quite ambivalent on her goals of care)
   - Hold ACEI
   - Continue beta-blocker and amiodarone given arhythmogenic dopamine
   - Avoid albuterol
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   Tachy-Arrhythmia
     Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started.
   - Monitor on telemetry
   - Hold coumadin in present setting (GIB and elevated INR)
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   - ICD not an option given DNR status and wishes to die peacefully
   Coronary Artery Disease
     Long history and likely active disease with decreased flow in the
   setting of hypotension. Could be responsible for chest pressure,
   although ischemia and stomach or other organs possible. Chest pressure
   had possibly been coincident with SVT and therefore possible that pain
   was strain and ischemia.
   - Continue ASA 81
   Shock/Hypotension/Hypoperfusion
     Poor forward flow, somewhat decompensated (though not as severely as
   now) with poor PO intake also. Also rapid ventricular rates may have
   contributed. Baseline BP also appears low (systolic pressures in 80s at
   clinic).
   - Improve forward flow
   - Pressors to support 90 - 100 mm Hg
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine normalizing now that cardiogenic shock resolved. Possible
   prerenal component in setting of dehydration/chronic CHF with
   intravascular depletion.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I but can restart if BP can tolerate
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   - Trend LFTs
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   - Switch IV PPI (pantoprazole) to PO (omeprazole)
   - Repeat stool guaiac when disimpacted
   Obstructive lung disease/allergic rhinitis
   - Consider restarting xopenex now that milrinone has been discontinued
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT ppx with pneumoboots, INR elevated - previously on coumadin and
   now thought to have shock liver.
   -Pain management with Tylenol
   -Bowel regimen with colace, senna, Miralax, lactulose.
   Access: 2 peripherals
   Communication: Patient
   CODE: DNR/DNI - BUT if in malignant rhythm, okay to shock if she can
   get midazolam. No breathing tube or chest compressions (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion).
     Ms [**Known lastname 14467**] has been very clear on multiple occasions that she feels
   so uncomfortable in recent months she accepts mortality if this happens
   naturally. She wishes to pass away at home rather than in a hospital or
   nursing home and to be comfortable at that time. She has had aversion
   to "hospice care" and even rehab in the past though states she wishes
   to be comfortable and is tired of being so uncomfortable. She is aware
   she has severe cardiopulmonary disease. Unfortunately she lives in pain
   as she has been unable to tolerate multiple pain medications.
   - is DNR/DNI (compressions/intubation/cardiopulmonary support not
   appropriate)
   - palliative care c/s
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: CCU for diuresis
   ICU Care
   Nutrition: Cardiac healthy diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-5-19**] 05:45 PM
   22 Gauge - [**2106-5-20**] 12:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will try to reach patient
s nephew
   [**Name (NI) 36**] status: DNR / DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Additional comments:
   pt continues to do poorly
   heading towards palliative care
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **],MD
   on:[**2106-5-21**] 17:30 ------

2106-05-22 07:19:00 Physician Resident Progress Note
Chief Complaint: Originally presented with hypotension, abdominal pain,
   chest pain, shortness of breath and a sore rigth heal. Became very
   fluid overloaded and was transferred to CCU for diuresis (after
   diuresis failed on the floor). Diuresis also failed with milrinone,
   Lasix, but has been successful with substitution of dopamine for
   milrinone.
   24 Hour Events:
 PICC LINE - START [**2106-5-21**] 11:24 AM
   [**5-21**]
   - in afternoon, pt declined to undergo TEE
   - met with palliative care; interested in going home with hospice,
   especially if she can improve her ability to transfer before d/c
   - requested use of home nebs; trialed albuterol
   - requested morphine, wrote for [**2-13**], then 2-4mg IV Q3H PRN
   - restarted heparin gtt
   - good UOP with dopamine/Lasix
   [**5-20**]
   - renal: try diurel (we did metalozone instead per dr. [**First Name (STitle) **]),
   uptitrate lasix gtt to 20, 1u prbc for intravascular volume, will eval
   for possible dialysis/ultrafiltration tomorrow but would not initiate
   today. also, they felt that she was reluctant to do dialysis.
   - updated sister on status
   - became hypotensive to 60s systolic (assymptomatic) so decreased
   milrenone and slightly uptitrated epi and pressures returned to 100s
   - will need picc in am
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 1 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2106-5-22**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 67 (65 - 80) bpm
   BP: 89/28(44) {87/28(44) - 164/65(76)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  1,162 mL
                                                                    257 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    682 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    860 mL
   Urine:
                                                                  1,925 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -763 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GENERAL: Mildly dyspneic, Alert and oriented x3. Mood, affect
   appropriate.
   NECK: Supple with JVP in low neck (compared to mandible at 30 degrees
   on admission).
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: Some kyphosis. Resp were slightly labored, no accessory muscle
   use. Very poor air entry, with no breath sounds at bases. Wheezes  and
   ronchi above.
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Mildly tender particularly RUQ.
   EXTREMITIES: Very severe lower extremity edema. Cool extremities.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Labs / Radiology
   328 K/uL
   8.8 g/dL
   128 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   41 mg/dL
   104 mEq/L
   137 mEq/L
   26.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2106-5-20**]  03:22 AM
                             [**2106-5-20**]  03:47 PM
                             [**2106-5-21**]  03:11 AM
                             [**2106-5-21**]  03:00 PM
   WBC
   10.6
   8.5
   Hct
   23.6
   25.8
   26.4
   Plt
   370
   328
   Cr
   2.0
   2.2
   2.2
   2.2
   Glucose
   157
   116
   101
   128
   Other labs: PT / PTT / INR:19.6/56.0/1.8, Albumin:3.0 g/dL, Ca++:8.2
   mg/dL, Mg++:2.9 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: IMPRESSION: AP chest compared to [**5-19**]:
   Tip of the new right PIC line is in the right atrium, no less than 5.5
   cm beyond the superior cavoatrial junction. Small bilateral pleural
   effusions have decreased. Moderate cardiomegaly is stable. Upper lungs
   grossly clear.
   Renal US
   IMPRESSION:
   1. No hydronephrosis.
   2. Arterial and venous flow identified within the hilum of each kidney,
   but  no further characterization can be made as this is a very limited
   Doppler  examination.
   Microbiology: MRSA screen +
   ECG & telemetry
 no tachyarythmia overnight, EKG pending from this
   a.m.
   Assessment and Plan
   This 81-year-old woman was experiencing symptoms of worsened forward
   flow in the context of volume overload. Her heart failure is largely
   secondary to mitral regurgitation, worsened since her MVR in the mid
   [**2086**]. Diuresis is key
 with euvolemia her MR will likely improve,
   resulting in improved end-organ perfusion and likely enable her to go
   home with better urine output with oral diuretics.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of
   30%.Decompensated at present, worsened over the course of admission so
   previously, now finally progress with reduced JVP and increased urine
   output with dopamine, lasix, phenylephrine. Previously no output to
   milrinone, lasix and phenylephrine. Will now continue diuresis with
   gentle goals off
 it is apparent that she is depleting intravascularly
   without good fluid shift from extravascular spaces given clinical
   observation of slowly improving edema and rapidly decreasing JVP.
   However, her blood pressure (now off pressor) indicates that she is
   tolerating this degree of diuresis.
   - Continue Lasix at 20 mg/hr for now, checking regularly throughout the
   day to adjust downward if pressure drops
   - Continue dopamine at 1-3 mcg/kg/min (now good urine output at 1
   mcg/kg/min)
   - Hold ACEI
   - Continue beta-blocker and amiodarone given arhythmogenic dopamine
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   Tachy-Arrhythmia
     Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started. ICD not consistent with her goals of care.
   - Monitor on telemetry
   - Can restart albuterol now that she has been stably free of
   tachyarrhythmia on Amiodarone and metoprolol
   - Restart Coumadin now INR 1.8
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   Coronary Artery Disease
     Long history and likely active disease with decreased flow in the
   setting of hypotension. Could be responsible for chest pressure,
   although ischemia and stomach or other organs possible. Chest pressure
   had possibly been coincident with SVT and therefore possible that pain
   was strain and ischemia.
   - Continue ASA 81
   Shock/Hypotension/Hypoperfusion
     Poor forward flow, somewhat decompensated (though not as severely as
   now) with poor PO intake also. Also rapid ventricular rates may have
   contributed. Baseline BP also appears low (systolic pressures in 80s at
   clinic).
   - Improve forward flow
   - Pressors to support 90 - 100 mm Hg if necessary (not presently)
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine normalizing now that cardiogenic shock resolved. Possible
   prerenal component in setting of dehydration/chronic CHF with
   intravascular depletion.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I but can restart if BP can tolerate
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   - Trend LFTs
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   - Switch IV PPI (pantoprazole) to PO (omeprazole)
   - Repeat stool guaiac when disimpacted
   Obstructive lung disease/allergic rhinitis
   - Restart albuterol now stably free of arhythmia
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT ppx with pneumoboots, INR elevated - previously on coumadin and
   now thought to have shock liver.
   -Pain management with Tylenol
   -Bowel regimen with colace, senna, Miralax, lactulose.
   Access: 2 peripherals
   Communication: Patient
   CODE: DNR/DNI - BUT if in malignant rhythm, okay to shock if she can
   get midazolam. No breathing tube or chest compressions (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion).
     Ms [**Known lastname 14467**] has been very clear on multiple occasions that she feels
   so uncomfortable in recent months she accepts mortality if this happens
   naturally. She wishes to pass away at home rather than in a hospital or
   nursing home and to be comfortable at that time. She has had aversion
   to "hospice care" and even rehab in the past though states she wishes
   to be comfortable and is tired of being so uncomfortable. She is aware
   she has severe cardiopulmonary disease. Unfortunately she lives in pain
   as she has been unable to tolerate multiple pain medications.
   - is DNR/DNI (compressions/intubation/cardiopulmonary support not
   appropriate)
   - palliative care c/s
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: CCU for diuresis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-19**] 05:45 PM
   22 Gauge - [**2106-5-20**] 12:00 AM
   PICC Line - [**2106-5-21**] 11:24 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2106-05-23 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -
   Originally presented with hypotension, abdominal pain, chest pain,
   shortness of breath and a sore rigth heal. Became very fluid overloaded
   and was transferred to CCU for diuresis (after diuresis failed on the
   floor). Diuresis also failed with milrinone, Lasix, but has been
   successful with substitution of dopamine for milrinone.
   24 Hour Events:
   - restart coumadin
   - lasix gtt turned down to 15 in the afternoon in the setting of good
   diuresis and dropping BP
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 67 (60 - 78) bpm
   BP: 95/31(45) {77/14(33) - 129/58(74)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 66.2 kg (admission): 67.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,518 mL
                                                                    165 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                    818 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                    530 mL
   Urine:
                                                                  3,680 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,162 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: Mildly dyspneic, Alert and oriented x3. Mood, affect
   appropriate.
   NECK: Supple with JVP in low neck (compared to mandible at 30 degrees
   on admission).
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: Some kyphosis. Resp were slightly labored, no accessory muscle
   use. Very poor air entry, with no breath sounds at bases. Wheezes  and
   ronchi above.
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Mildly tender particularly RUQ.
   EXTREMITIES: Very severe lower extremity edema. Cool extremities.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   8.8 g/dL
   129 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   27.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2106-5-20**]  03:22 AM
                             [**2106-5-20**]  03:47 PM
                             [**2106-5-21**]  03:11 AM
                             [**2106-5-21**]  03:00 PM
                             [**2106-5-22**]  06:14 AM
                             [**2106-5-22**]  02:15 PM
                             [**2106-5-23**]  05:21 AM
   WBC
   10.6
   8.5
   6.3
   5.9
   Hct
   23.6
   25.8
   26.4
   27.4
   27.5
   Plt
   370
   328
   272
   293
   Cr
   2.0
   2.2
   2.2
   2.2
   2.1
   2.0
   TropT
   0.17
   Glucose
   157
   116
   101
   128
   113
   129
   Other labs: PT / PTT / INR:19.9/95.4/1.8, CK / CKMB /
   Troponin-T:47//0.17, Albumin:3.3 g/dL, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   This 81-year-old woman was experiencing symptoms of worsened forward
   flow in the context of volume overload. Her heart failure is largely
   secondary to mitral regurgitation, worsened since her MVR in the mid
   [**2086**]. Diuresis is key
 with euvolemia her MR will likely improve,
   resulting in improved end-organ perfusion and likely enable her to go
   home with better urine output with oral diuretics.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of
   30%.Decompensated at present, worsened over the course of admission so
   previously, now finally progress with reduced JVP and increased urine
   output with dopamine, lasix, phenylephrine. Previously no output to
   milrinone, lasix and phenylephrine. Will now continue diuresis with
   gentle goals off
 it is apparent that she is depleting intravascularly
   without good fluid shift from extravascular spaces given clinical
   observation of slowly improving edema and rapidly decreasing JVP.
   However, her blood pressure (now off pressor) indicates that she is
   tolerating this degree of diuresis.
   - Continue Lasix at 20 mg/hr for now, checking regularly throughout the
   day to adjust downward if pressure drops
   - Continue dopamine at 1-3 mcg/kg/min (now good urine output at 1
   mcg/kg/min)
   - Hold ACEI
   - Continue beta-blocker and amiodarone given arhythmogenic dopamine
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   Tachy-Arrhythmia
     Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started. ICD not consistent with her goals of care.
   - Monitor on telemetry
   - Can restart albuterol now that she has been stably free of
   tachyarrhythmia on Amiodarone and metoprolol
   - Coumadin restarted
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   Coronary Artery Disease
     Long history and likely active disease with decreased flow in the
   setting of hypotension. Could be responsible for chest pressure,
   although ischemia and stomach or other organs possible. Chest pressure
   had possibly been coincident with SVT and therefore possible that pain
   was strain and ischemia.
   - Continue ASA 81
   Shock/Hypotension/Hypoperfusion
     Poor forward flow, somewhat decompensated (though not as severely as
   now) with poor PO intake also. Also rapid ventricular rates may have
   contributed. Baseline BP also appears low (systolic pressures in 80s at
   clinic).
   - Improve forward flow
   - Pressors to support 90 - 100 mm Hg if necessary (not presently)
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine normalizing now that cardiogenic shock resolved. Possible
   prerenal component in setting of dehydration/chronic CHF with
   intravascular depletion.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I but can restart if BP can tolerate
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   - Trend LFTs
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   - Switch IV PPI (pantoprazole) to PO (omeprazole)
   - Repeat stool guaiac when disimpacted
   Obstructive lung disease/allergic rhinitis
   - Restart albuterol now stably free of arhythmia
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT ppx with pneumoboots, INR elevated - previously on coumadin and
   now thought to have shock liver.
   -Pain management with Tylenol
   -Bowel regimen with colace, senna, Miralax, lactulose.
   Access: 2 peripherals
   Communication: Patient
   CODE: DNR/DNI - BUT if in malignant rhythm, okay to shock if she can
   get midazolam. No breathing tube or chest compressions (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion).
     Ms [**Known lastname 14467**] has been very clear on multiple occasions that she feels
   so uncomfortable in recent months she accepts mortality if this happens
   naturally. She wishes to pass away at home rather than in a hospital or
   nursing home and to be comfortable at that time. She has had aversion
   to "hospice care" and even rehab in the past though states she wishes
   to be comfortable and is tired of being so uncomfortable. She is aware
   she has severe cardiopulmonary disease. Unfortunately she lives in pain
   as she has been unable to tolerate multiple pain medications.
   - is DNR/DNI (compressions/intubation/cardiopulmonary support not
   appropriate)
   - palliative care c/s
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: CCU for diuresis
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FUNGAL INFECTION, OTHER
   Perianal skin
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-19**] 05:45 PM
   22 Gauge - [**2106-5-20**] 12:00 AM
   PICC Line - [**2106-5-21**] 11:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2106-05-24 07:31:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   [**5-23**]
   - spoke to nephew, [**Name (NI) 8534**], who stopped by, gave him an update. also
   spoke to [**Doctor Last Name **] who is cousin and an anesthesiologist, updated him.
   - put out goal UOP by 4 pm (1.2 L negative) and hypotensive to 80s so
   decreased lasix gtt down to 5 mg/hr
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Dopamine - 3 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-24**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 70 (58 - 74) bpm
   BP: 85/26(42) {80/26(40) - 111/37(53)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.2 kg (admission): 67.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,024 mL
                                                                    155 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    604 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    990 mL
   Urine:
                                                                  2,950 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,926 mL
                                                                   -835 mL
   Respiratory support
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   GENERAL: Mildly dyspneic, Alert and oriented x3. Mood, affect
   appropriate.
   NECK: Supple with JVP in low neck (compared to mandible at 30 degrees
   on admission).
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: CTAB anteriorly, pt unable to cooperate with full lung exam due
   to weakness
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Less TTP
   EXTREMITIES: lower extremity edema improved. Cool extremities. LLE
   hematoma, mildly TTP.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Labs / Radiology
   293 K/uL
   8.8 g/dL
   119 mg/dL
   2.0 mg/dL
   34 mEq/L
   3.6 mEq/L
   43 mg/dL
   99 mEq/L
   140 mEq/L
   27.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2106-5-20**]  03:22 AM
                             [**2106-5-20**]  03:47 PM
                             [**2106-5-21**]  03:11 AM
                             [**2106-5-21**]  03:00 PM
                             [**2106-5-22**]  06:14 AM
                             [**2106-5-22**]  02:15 PM
                             [**2106-5-23**]  05:21 AM
                             [**2106-5-23**]  03:09 PM
   WBC
   10.6
   8.5
   6.3
   5.9
   Hct
   23.6
   25.8
   26.4
   27.4
   27.5
   Plt
   370
   328
   272
   293
   Cr
   2.0
   2.2
   2.2
   2.2
   2.1
   2.0
   2.2
   2.0
   TropT
   0.17
   Glucose
   157
   116
   101
   128
   113
   129
   106
   119
   Other labs: PT / PTT / INR:19.9/65.9/1.8, CK / CKMB /
   Troponin-T:47//0.17, Albumin:3.3 g/dL, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Imaging: No new
   Microbiology: No new
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FUNGAL INFECTION, OTHER
   Perianal skin
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Assessment and Plan
   This 81-year-old woman was experiencing symptoms of worsened forward
   flow in the context of volume overload. Her heart failure is largely
   secondary to mitral regurgitation, worsened since her MVR in the mid
   [**2086**]. Diuresis is key
 with euvolemia her MR will likely improve,
   resulting in improved end-organ perfusion and likely enable her to go
   home with better urine output with oral diuretics.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of
   30%.Decompensated at present.  Previously no output to milrinone, lasix
   and phenylephrine. Stopped milrenone and added dopamine to lasix and
   phenylephrine and had good UOP to this (LOS 4L).  Pt is still volume
   overloaded with peripheral edema, but JVP no longer elevated. BP has
   been on the low side, limiting amount of diuresis possible.
   - decrease rate of lasix gtt for gentler diuresis (goal 1-1.5 L
   negative)
   - Continue dopamine at 1-3 mcg/kg/min
   - Continue to hold ACEI
   - Continue amiodarone given arhythmogenicity of dopamine
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   - Probably one more day of diuresis until creatinine bumps or becomes
   significantly hypotensive
   - goal is to optimize patient to get her home with hospice, possibly
   Wednesday
   - Appreciate palliative care recs
   Tachy-Arrhythmia
    Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started.
   - Monitor on telemetry
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   Fatigue/weakness: Pt significantly more fatigued after diuresis, most
   likely secondary to reduced stroke volume after reduced preload.
   - Monitor patient
s respiratory status
   - Continue diuresis for now
   Hematoma: Likely traumatic and exacerbated by anticoagulation
   - Monitor hematoma
   - DC anticoagulation
   A fib: On heparin gtt.
   - Discontinue heparin gtt and warfarin as not consistent with her goals
   of care
   Coronary Artery Disease
   Long history and likely active disease with decreased flow in the
   setting of hypotension. Had chest pressure in setting of SVT, but
   currently CP free.
   - Continue ASA 81
   Shock/Hypotension/Hypoperfusion
     Poor forward flow.  Baseline BP also appears low (systolic pressures
   in 80s at clinic). Diuresis also heavily contributing.
   - Improve forward flow
   - Pressors to support 90 - 100 mm Hg if necessary with lasix gtt
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine still elevated above baseline 1.0. Possible prerenal
   component in setting of dehydration/chronic CHF with intravascular
   depletion.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   - repeat stool guiuac
   Obstructive lung disease/allergic rhinitis
   - Restart albuterol now stably free of arhythmia
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT Coumadin
   -Pain management with morphine PRN
   -Bowel regimen with colace, senna, Miralax, lactulose (hold for loose
   stool).
   Access: 2 peripherals
   Communication: Patient
   CODE: DNR/DNI - BUT if in malignant rhythm, okay to shock if she can
   get midazolam. No breathing tube or chest compressions (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion).
     Ms [**Known lastname 14467**] has been very clear on multiple occasions that she feels
   so uncomfortable in recent months she accepts mortality if this happens
   naturally. She wishes to pass away at home rather than in a hospital or
   nursing home and to be comfortable at that time. She has had aversion
   to "hospice care" and even rehab in the past though states she wishes
   to be comfortable and is tired of being so uncomfortable. She is aware
   she has severe cardiopulmonary disease. Unfortunately she lives in pain
   as she has been unable to tolerate multiple pain medications.
   - is DNR/DNI (compressions/intubation/cardiopulmonary support not
   appropriate)
   - palliative care c/s
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: CCU for diuresis
   ICU Care
   Nutrition: Low sodium
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-19**] 05:45 PM
   22 Gauge - [**2106-5-20**] 12:00 AM
   PICC Line - [**2106-5-21**] 11:24 AM
   Prophylaxis:
   DVT: coumadin, hep gtt
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   signed on [**2106-5-25**] for service provided on [**2106-5-24**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **],MD
   on:[**2106-5-25**] 10:41 ------

2106-05-25 07:27:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   [**5-24**]
   - Hospice in to see patient. Concerned that she will not be able to
   manage at home due to her degree of debilitation. Alteratives
   discussed.
   - anticoagulation discontinued per Dr. [**First Name (STitle) **]
   - transitioned IV morphine to PO
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-25**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 59 (55 - 73) bpm
   BP: 87/22(37) {78/21(37) - 109/39(51)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 66.2 kg (admission): 67.4 kg
   Height: 62 Inch
             Total In:
                                                                    450 mL
                                                                    192 mL
   PO:
             TF:
   IVF:
                                                                    450 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    610 mL
   Urine:
                                                                  2,800 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,350 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   GENERAL: Mildly dyspneic, Alert and oriented x3. Mood, affect
   appropriate.
   NECK: Supple with JVP in low neck (compared to mandible at 30 degrees
   on admission).
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: CTAB with reduced sounds at bases, no WRR
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Less TTP
   EXTREMITIES: lower extremity edema improved. Cool extremities. LLE
   hematoma, mildly TTP.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Labs / Radiology
   269 K/uL
   9.2 g/dL
   93 mg/dL
   2.0 mg/dL
   35 mEq/L
   4.1 mEq/L
   50 mg/dL
   95 mEq/L
   138 mEq/L
   27.3 %
   4.4 K/uL
        [image002.jpg]
                             [**2106-5-20**]  03:22 AM
                             [**2106-5-20**]  03:47 PM
                             [**2106-5-21**]  03:11 AM
                             [**2106-5-21**]  03:00 PM
                             [**2106-5-22**]  06:14 AM
                             [**2106-5-22**]  02:15 PM
                             [**2106-5-23**]  05:21 AM
                             [**2106-5-23**]  03:09 PM
                             [**2106-5-24**]  06:30 AM
                             [**2106-5-24**]  09:08 PM
   WBC
   10.6
   8.5
   6.3
   5.9
   4.4
   Hct
   23.6
   25.8
   26.4
   27.4
   27.5
   27.3
   Plt
   370
   328
   272
   293
   269
   Cr
   2.0
   2.2
   2.2
   2.2
   2.1
   2.0
   2.2
   2.0
   2.0
   2.0
   TropT
   0.17
   Glucose
   157
   116
   101
   128
   113
   129
   106
   119
   99
   93
   Other labs: PT / PTT / INR:21.7/50.7/2.0, CK / CKMB /
   Troponin-T:47//0.17, Albumin:3.3 g/dL, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.0 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FUNGAL INFECTION, OTHER
   Perianal skin
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Assessment and Plan
   This 81-year-old woman was experiencing symptoms of worsened forward
   flow in the context of volume overload. Her heart failure is largely
   secondary to mitral regurgitation, worsened since her MVR in the mid
   [**2086**]. Diuresis is key
 with euvolemia her MR will likely improve,
   resulting in improved end-organ perfusion and likely enable her to go
   home with better urine output with oral diuretics.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of 30%.
   Previously no output to milrinone, lasix and phenylephrine. Stopped
   milrenone and added dopamine to lasix and phenylephrine and had good
   UOP to this (LOS 4L).  Pt responded to diuresis well with dopamine and
   lasix gtt. Pt now probably close to euvolemic.
   - Will transition patient to PO regimen today  Torsemide 40mg PO BID
   plus metolazone 2.5mg PO BID 30 minutes prior to torsemide
   - Will wean off lasix gtt then later wean off dopamine gtt
   - Continue to hold ACEI
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   - Probable call out to floor tomorrow
   - goal is to optimize patient to get her most likely to a hospice
   facility, possibly Wednesday or Thursday
   - Appreciate palliative care and SW input
   Tachy-Arrhythmia
    Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started.
   - Monitor on telemetry
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   Fatigue/weakness: Pt significantly more fatigued after diuresis, most
   likely secondary to reduced stroke volume after reduced preload.
   Morphine may also be contributing
   - Monitor patient
s respiratory status
   - Slowing down diuresis
   Hematoma: Likely traumatic and exacerbated by anticoagulation
   - Monitor hematoma
   - DC anticoagulation
   A fib: On heparin gtt.
   - Discontinue heparin gtt and warfarin as not consistent with her goals
   of care
   Coronary Artery Disease
   Long history and likely active disease with decreased flow in the
   setting of hypotension. Had chest pressure in setting of SVT, but
   currently CP free.
   - Continue ASA 81
   Shock/Hypotension/Hypoperfusion
     Poor forward flow.  Baseline BP also appears low (systolic pressures
   in 80s at clinic). Diuresis also heavily contributing.
   - Improve forward flow
   - Pressors to support 90 - 100 mm Hg if necessary with lasix gtt
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine still elevated above baseline 1.0 at 2.0 currently.
   Probably cardiorenal in etiology.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   Obstructive lung disease/allergic rhinitis
   - Restart albuterol now stably free of arhythmia
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT Coumadin
   -Pain management with morphine PRN, consider increasing dosage
   -Bowel regimen with colace, senna, Miralax, bisacodyl (hold for loose
   stool).
   Access: 2 peripherals
   Communication: Patient
   CODE: DNR/DNI
 Pt now absolutely DNR/DNI with likely transition
   eventually to CMO
   - palliative care c/s
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: CCU to monitor for 24 hours off pressor and off lasix gtt
   ICU Care
   Nutrition: Low sodium
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-19**] 05:45 PM
   22 Gauge - [**2106-5-20**] 12:00 AM
   PICC Line - [**2106-5-21**] 11:24 AM
   Prophylaxis:
   DVT: None
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, focus on comfort
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   diuresed well; no longer edematous
   switch to po meds
   palliative care
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **],MD
   on:[**2106-5-25**] 12:16 ------

2106-05-26 07:21:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   [**5-25**]
   - lasix gtt stopped, started torsemide & metolazone, dopamine weaned
   off
   - bowel regimen increased
   - hospice & SW spoke with her again and she still wants to go home
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Still with chronic chest pain and dyspnea
   Flowsheet Data as of  [**2106-5-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.2
   HR: 52 (52 - 67) bpm
   BP: 88/29(42) {75/26(40) - 114/66(75)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.4 kg (admission): 67.4 kg
   Height: 62 Inch
                  Total In:
                                                                    975 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                    375 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    460 mL
   Urine:
                                                                  1,940 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///38/
   Physical Examination
   GENERAL: Looks more comfortable Alert and oriented x3. Mood, affect
   appears depressed
   NECK: Supple with JVP in low neck (compared to mandible at 30 degrees
   on admission).
   CARDIAC: PMI enlarged. RR, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: CTAB with reduced sounds at bases, no WRR
   ABDOMEN: Slightly distended with palpable stool in large bowel on
   right. No HSM. Less TTP
   EXTREMITIES: lower extremity edema improved still mild amount present.
   Cool extremities. LLE hematoma, mildly TTP.
   SKIN: Mild statis dermatitis, no ulcers, scars, or xanthomas.
   Labs / Radiology
   255 K/uL
   9.1 g/dL
   87 mg/dL
   1.9 mg/dL
   38 mEq/L
   3.6 mEq/L
   56 mg/dL
   90 mEq/L
   136 mEq/L
   28.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2106-5-21**]  03:00 PM
                             [**2106-5-22**]  06:14 AM
                             [**2106-5-22**]  02:15 PM
                             [**2106-5-23**]  05:21 AM
                             [**2106-5-23**]  03:09 PM
                             [**2106-5-24**]  06:30 AM
                             [**2106-5-24**]  09:08 PM
                             [**2106-5-25**]  07:07 AM
                             [**2106-5-25**]  04:26 PM
                             [**2106-5-26**]  03:38 AM
   WBC
   6.3
   5.9
   4.4
   4.3
   4.9
   Hct
   27.4
   27.5
   27.3
   27.2
   28.7
   Plt
   272
   293
   269
   242
   255
   Cr
   2.2
   2.1
   2.0
   2.2
   2.0
   2.0
   2.0
   2.0
   1.9
   1.9
   TropT
   0.17
   Glucose
   128
   113
   129
   106
   119
   99
   93
   93
   89
   87
   Other labs: PT / PTT / INR:21.7/50.7/2.0, CK / CKMB /
   Troponin-T:47//0.17, ALT / AST:71/21, Alk Phos / T Bili:80/0.5,
   Albumin:3.3 g/dL, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FUNGAL INFECTION, OTHER
   Perianal skin
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   This 81-year-old woman was experiencing symptoms of worsened forward
   flow in the context of volume overload. Her heart failure is largely
   secondary to mitral regurgitation, worsened since her MVR in the mid
   [**2086**]. Diuresis is key
 with euvolemia her MR will likely improve,
   resulting in improved end-organ perfusion and likely enable her to go
   home with better urine output with oral diuretics.
   Heart Failure
   Mitral regurgitation and left ventricular ejection fraction of 30%.
   Previously no output to milrinone, lasix and phenylephrine. Stopped
   milrenone and added dopamine to lasix and phenylephrine and had good
   UOP to this (LOS 4L).  Pt responded to diuresis well with dopamine and
   lasix gtt. Pt now probably still somewhat hypervolemic.
   - Continue torsemide 40mg PO BID plus metolazone 2.5mg PO Daily 30
   minutes prior to torsemide
   - Consider restarting ACEi
   - strict I/O and daily weights
   - Low sodium diet, fluid restrict
   - Call out to floor today
   - goal is to optimize patient to get her most likely to a hospice
   facility, possibly Thursday or Friday although pt wanting to go home
   - Appreciate palliative care and SW input
   Tachy-Arrhythmia
    Responded to metoprolol and on amiodarone, without SVT since
   amiodarone started.
   - Monitor on telemetry
   - Continue PO amiodarone (400 mg [**Hospital1 **] x 2 weeks, 400 mg daily for [**2-13**]
   weeks, then 200 mg daily). Likely a life-long medication.
   - Maintain K > 4, Mg > 2
   Fatigue/weakness: Pt significantly more fatigued after diuresis, most
   likely secondary to reduced stroke volume after reduced preload.
   Morphine may also be contributing
   - Monitor patient
s respiratory status
   - Slowing down diuresis
   Hematoma: Likely traumatic and exacerbated by anticoagulation
   - Monitor hematoma
   - DC anticoagulation
   A fib: On heparin gtt.
   - Discontinue heparin gtt and warfarin as not consistent with her goals
   of care
   Coronary Artery Disease
   Long history and likely active disease with decreased flow in the
   setting of hypotension. Had chest pressure in setting of SVT, but
   currently CP free.
   - Continue ASA 81
   NSTEMI
     Elevated troponins, CK-MB, anterior TWI on EKG felt to be in setting
   of acute illness, tachycardia leading to demand ischemia. Resolving.
   - continue ASA 81mg PO
   - off atorvastatin while LFTs abnormal
   - pain control as needed
   Subacute Renal Failure
     Creatinine still elevated above baseline 1.0 at 1.9 currently but
   stable. Probably cardiorenal in etiology.
   - Monitor creatinine
   - renally dose medications; avoid nephrotoxins
   - Hold ACE-I
   Hepatitis
     Resolving. Elevated LFTs likely in setting of shock liver. Now
   trending down.
   Abdominal Pain
     Likely ischemic based on history and physiological substrate.
   Abdominal pain resolving; colitis likely ischemic. Holding off on abx
   as do not suspect infectious etiology. R heart failure also likely
   contributing.
   - Maintain SBP > 90 mmHg
   Guaiac positive stools in ED
     PR trauma versus ischemic colitis.
   - Follow Hct
   Obstructive lung disease/allergic rhinitis
   - Restart albuterol now stably free of arhythmia
   - Continue cromolyn spray, advair, ipratropium
   Anxiety
     Was ordered for two different PRN benzodiazepines - reduced to
   lorazepam only (stopped clonazepam PRN). Continue fluoxetine.
   Heel pain
     Unclear etiology and now resolved. No diabetes. No skin breakdown on
   exam.
   FEN:
   - No fluids, fluid restricted diet
   - Replete electrolytes as needed
   - Low sodium heart healthy diet, PPI.
   Prophylaxis:
   -DVT none, not consistent with goals of care
   -Pain management with morphine PRN, consider increasing dosage
   -Bowel regimen with colace, senna, Miralax, bisacodyl (hold for loose
   stool).
   Access: PICC Line - [**2106-5-21**] 11:24 AM
   Communication: Patient
   CODE: DNR/DNI
 Pt now absolutely DNR/DNI with likely transition
   eventually to [**Hospital 580**]
   Health care proxy:
   [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   Disposition: Call out to [**Hospital Ward Name 289**] 3
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). entire CCU team.
   DNR status discussed. DNR.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Patient has diuresed well.  She is now on an oral diuretic regimen and
   off milrinone and will transfer to [**Hospital Ward Name 289**] 3 today.  Plan is for home with
   hospice in next 48 - 72 h
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **],MD
   on:[**2106-5-26**] 14:26 ------